*model = BSIMSOI
*Berkeley Spice Compatibility 
*
* SOI NMOSFET, floating body simulation

vd d 0 dc 0.05
vs s 0 dc 0
ve e 0 dc 0
vg g 0 dc 3

m1 d g s e n1 w=10u l=0.25u

.option gmin=1e-25 itl1=500
.dc vg 0 1.5 0.01 ve -4 4 1
.include nmospd.mod

* For PD, the command '.include nmosfd.mod ' should
* be replaced with '.include nmospd.mod'.
